US07053070B2
1-(4-Amino-2-methylsulfanyl-pyrimidin-5-yl)-ethanone
By substituting 1-(4-amino-2-methylsulfanyl-pyrimidin-5-yl)-ethanol (Example 34) for (4-amino-2-methylsulfanyl-pyrimidin-5-yl)-methanol in Example 3 and conducting the reaction at 80° C. in toluene, 3.74 g (72%) of the product as a solid is obtained.

reactant | (4-amino-2-methylsulfanyl-pyrimidin-5-yl)-methanol | NC1=NC(=NC=C1CO)SC | C6H9N3OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Amino-2-methylsulfanyl-pyrimidin-5-yl)-ethanone | 3.74 g, 72% | NC1=NC(=NC=C1C(C)=O)SC | C7H9N3OS
